US09416132B2
To a 80° C. mixture of trans-3-aminocyclopentanecarboxylic acid (1 g, 7.74 mmol) and K2CO3 (3.2 g, 23.22 mmol) in CH3CN (20 mL) was added dropwise a solution of benzyl bromide (3.2 mL, 27.1 mmol) in CH3CN (10 mL). The mixture was heated at 80° C. overnight. The mixture was cooled and poured into water (150 mL) and extracted with EtOAc (100 mL*3). The combined extracts were dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by combi flash to give trans-benzyl 3-(dibenzylamino)cyclopentanecarboxylate (2.8 g, 90.6%) as a white solid.

reactant | trans-3-aminocyclopentanecarboxylic acid | 7.74 mmol, 1 g | N[C@@H]1C[C@H](CC1)C(=O)O | C6H11NO2
reactant | K2CO3 | 23.22 mmol, 3.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | benzyl bromide | 27.1 mmol, 3.2 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | 150 mL | O | H2O
solvent | CH3CN | 20 mL | CC#N | C2H3N
solvent | CH3CN | 10 mL | CC#N | C2H3N
product | trans-benzyl 3-(dibenzylamino)cyclopentanecarboxylate | 2.8 g, 90.6% | C(C1=CC=CC=C1)N([C@@H]1C[C@H](CC1)C(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C27H29NO2
